US04272533
EXAMPLE 4: 2-aminoethyl-3-methyl-1-phenylindoline
To a solution of 83 g of 3-methyl-1-phenyl-2-indole acetonitrile in 340 ml of n-propanol there are added 100 ml of concentrated aqueous ammonia and two spoons of Raney nickel. The mixture is hydrogenated at 60° and normal pressure. After the hydrogen take-up is complete, filtration is effected and the filtrate is made slightly acid with glacial acetic acid under cooling. After the addition of water, washing with diethyl ether is effected and the aqueous phase is made alkaline with dilute ammonia. The latter is extracted with methylene chloride and the extract is concentrated by evaporation after washing with water and drying over sodium sulphate. The residue, 2-aminoethyl-3-methyl-1-phenylindole, is then converted into the hydrochloride. M.Pt. 202°-207° (from acetone/diethyl/ether).

reactant | 3-methyl-1-phenyl-2-indole acetonitrile | 83 g | CC1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)CC#N | C17H14N2
reactant | ammonia | 100 ml | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | n-propanol | 340 ml | C(CC)O | C3H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-aminoethyl-3-methyl-1-phenylindoline | NCCC1N(C2=CC=CC=C2C1C)C1=CC=CC=C1 | C17H20N2
